US07737166B2
2-Cyclopropyl-7-[(3S)-3-(ethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (#138)
(3S)-3-(Ethylamino)pyrrolidine (85 μl, 0.684 mmol) and triethylamine (95 μl, 0.684 mmol) were added to a dimethyl sulfoxide (2 ml) solution of 2-cyclopropyl-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-173) (100 mg, 0.342 mmol), followed by stirring in an oil bath at 95° C. for 3 hours. The reaction liquid was concentrated under reduced pressure, then the residue was dissolved in ethyl acetate, and washed with water and saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, and the residue obtained by concentration was purified by preparative TLC (eluent, chloroform:methanol=10:1, v/v), and the obtained eluate was purified in slurry with isopropyl ether to obtain the entitled compound (31.0 mg, 23%) as a white solid.

reactant | (3S)-3-(Ethylamino)pyrrolidine | 0.684 mmol, 85 μl | C(C)N[C@@H]1CNCC1 | C6H14N2
reactant | triethylamine | 0.684 mmol, 95 μl | C(C)N(CC)CC | C6H15N
reactant | 2-cyclopropyl-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.342 mmol, 100 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C18H13FN2O
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 2-Cyclopropyl-7-[(3S)-3-(ethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 31.0 mg, 23% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)NCC)C2=CC=CC=C2)C)C#N | C24H26N4O
